US04649146
A mixture of ethyl 2-amino-5-(4-pyridyl)-4-thiazolecarboxylate (5.0 g) and sodium hydroxide (1.6 g) in a mixture of methanol (50 ml) and water (10 ml) was stirred at ambient temperature for an hour. The reaction mixture was evaporated in vacuo and the residue was dissolved in water. The aqueous solution was adjusted to pH 5 with 10% hydrochloric acid. The precipitate was collected by filtration and dried over phosphorus pentoxide in vacuo to afford 2-amino-5-(4-pyridyl)-4-thiazolecarboxylic acid (3.54 g).

reactant | ethyl 2-amino-5-(4-pyridyl)-4-thiazolecarboxylate | 5.0 g | NC=1SC(=C(N1)C(=O)OCC)C1=CC=NC=C1 | C11H11N3O2S
reactant | sodium hydroxide | 1.6 g | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 2-amino-5-(4-pyridyl)-4-thiazolecarboxylic acid | 3.54 g | NC=1SC(=C(N1)C(=O)O)C1=CC=NC=C1 | C9H7N3O2S
